US08034812B2
2-(4-aminophenyl)-2-methylpropanenitrile
To a solution of 2-methyl-2-(4-nitrophenyl)propanenitrile (0.95 g, 5.0 mmol) in ethyl acetate (10 mL) was added 10% palladium/carbon (100 mg), and the mixture was stirred at room temperature for 14 hr under hydrogen atmosphere. The residual catalyst was filtered through celite, and washed with ethyl acetate. The filtrate was concentrated under reduced pressure to give the title compound (0.81 g, 99%) as a pale-yellow oil.

reactant | 2-methyl-2-(4-nitrophenyl)propanenitrile | 5.0 mmol, 0.95 g | CC(C#N)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H10N2O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 100 mg | [Pd] | Pd
product | 2-(4-aminophenyl)-2-methylpropanenitrile | 0.81 g, 99% | NC1=CC=C(C=C1)C(C#N)(C)C | C10H12N2
